US07285563B2
8-(Trifluoromethyl)isoquinoline
A mixture of 2-trifluoromethylbenzaldehyde (15 g; 86 mmol) and aminoacetaldehyde dimethylacetal (9.37 ml; 86 mmol) in toluene (75 ml) was heated at reflux under Dean/Stark conditions for 2 hours. The cooled reaction mixture was evaporated to dryness and the residue added dropwise to conc. sulfuric acid (200 ml) at 140° C.; after complete addition the heating was continued for 30 mins then the warm mixture was poured over ice. The mixture was filtered and the filtrate basified by the addition of 4N NaOH with cooling. The basic solution was extracted with Et2O (×3), the combined Et2O layers were dried over Na2SO4, filtered and evaporated. The residue was dissolved in DCM and filtered through a short plug of silica and evaporated to give 1.2 g (Yield 7%).

reactant | 2-trifluoromethylbenzaldehyde | 86 mmol, 15 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | aminoacetaldehyde dimethylacetal | 86 mmol, 9.37 ml | COC(CN)OC | C4H11NO2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(Trifluoromethyl)isoquinoline | Yield 7% | FC(C=1C=CC=C2C=CN=CC12)(F)F | C10H6F3N
